US07470679B2
tert-Butyl 4-(2-oxo-1,2,3,4-tetrahydroquinolin-3-yl)piperazine-1-carboxylate
tert-Butyl 4-(1-methoxy-3-(2-nitrophenyl)-1-oxopropan-2-yl)piperazine-1-carboxylate (770 mg, 2.0 mmol) was reacted in a manner analogous to the preparation of tert-butyl 4-(2-oxo-1,2,3,4-tetrahydroquinolin-3-yl)piperidine-1-carboxylate. Title compound was obtained as amber oil in quantitative yield. MS m/e (M+H)+=332.3.

reactant | tert-Butyl 4-(1-methoxy-3-(2-nitrophenyl)-1-oxopropan-2-yl)piperazine-1-carboxylate | 2.0 mmol, 770 mg | COC(C(CC1=C(C=CC=C1)[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C)=O | C19H27N3O6
reactant | tert-butyl 4-(2-oxo-1,2,3,4-tetrahydroquinolin-3-yl)piperidine-1-carboxylate | O=C1NC2=CC=CC=C2CC1C1CCN(CC1)C(=O)OC(C)(C)C | C19H26N2O3
product | tert-Butyl 4-(2-oxo-1,2,3,4-tetrahydroquinolin-3-yl)piperazine-1-carboxylate | quantitative yield | O=C1NC2=CC=CC=C2CC1N1CCN(CC1)C(=O)OC(C)(C)C | C18H25N3O3
